US06262095B1
To a solution of 6.0 g (28.8 mmol) of 2-amino-3-chloro-1,4-dihydro-1,4-dioxonaphthalene in 120 mL of nitrobenzene, 17.10 mL (144.0 mmol) of 2-fluorobenzoic acid chloride are added with protection from light. After 10 min of stirring at 80° C., 0.20 mL of concentrated sulfuric acid is added. The reaction mixture is heated to reflux for 18 h. After complete cooling, ether is added to produce a yellow precipitate, which is filtered through fritted glass and washed with ether. This solid is then purified on a flash column (support: silica; conditioning: heptane; eluant: dichloromethane/heptane, 60/40) to produce 2.5 g of 4,9-dihydro-4,9-dioxo-2-(2-fluorophenyl)-naphtho[2,3-d]oxazole in the form of yellow crystals.

reactant | 2-amino-3-chloro-1,4-dihydro-1,4-dioxonaphthalene | 28.8 mmol, 6.0 g | NC=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C10H6ClNO2
reactant | 2-fluorobenzoic acid chloride | 144.0 mmol, 17.10 mL | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | sulfuric acid | 0.20 mL | S(O)(O)(=O)=O | H2O4S
reactant | ether | CCOCC | C4H10O
solvent | nitrobenzene | 120 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4,9-dihydro-4,9-dioxo-2-(2-fluorophenyl)-naphtho[2,3-d]oxazole | 2.5 g, Yield: 30% | O=C1C=2C=CC=CC2C(C2=C1N=C(O2)C2=C(C=CC=C2)F)=O | C17H8FNO3
